Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
post-complicated ERCP monitoring
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
hypertension and hyperlipidemia who presents with RLQ pain. CTAP 
at ___ reportedly showed choledocholithiasis, cholelithiasis, 
and pancreatic stranding, although no records are available.  
She was admitted for elective ERCP.

Ms. ___ reported having RLQ pain (___) that eventually 
migrated and localized to the epigastric region. She scheduled 
an appointment with her PCP's office (___). She also 
reported some mildly increased urinary frequency at her PCP's 
apt.  She was initially treated for a UTI (nitrofurantoin BID, 
received all doses except the last one), but the pain continued 
to worsen.  About 2 days later (___), she went to the ED on 
the advice of her primary care doctor, where she was found to 
have a gallstone.  She scheduled an elective ERCP for ___ at 
___ shortly thereafter.  

She had a successful ERCP with sphincterotomy, complicated by 
challenging cannulation into CBD.  Per the note, a large single 
stone was removed with extraction balloon sweeps.

 

 
Past Medical History:
HTN
HLD
Glaucoma
Multinodular goiter
Herniated disc
Low back/neck pain
Headaches, facial pain

 
Social History:
___
Family History:
Mother - ___ 
Father - lung cancer
 
Physical Exam:
On admission:
 VITALS:  98.2 BP129 / 77 HR65 RR18 95% RA 
 General: Alert, oriented, no acute distress, conversational
 HEENT: Sclerae anicteric, MMM, 
 CV: Regular rate and rhythm, ___ SEM RUSB
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: ___ strength upper/lower extremities, grossly normal 
sensation, 2+ reflexes bilaterally, gait deferred.

On discharge: 
VS: 98.5 PO BP 144/81 HR 73 RR 18 99RA
 General: A&Ox3, no acute distress
 HEENT: MMM, no scleral icterus
 CV: RRR, ___ SEM RUSB
 Lungs: CTAB, no wheezes/rales/rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: WWP, 2+ pulses ___ bilaterally, no clubbing/cyanosis/edema  

 Skin: no new rashes, no yellowing of skin

 
Pertinent Results:
___ 07:15AM BLOOD WBC-5.9 RBC-4.19 Hgb-12.1 Hct-36.4 MCV-87 
MCH-28.9 MCHC-33.2 RDW-13.7 RDWSD-43.4 Plt ___
___ 07:15AM BLOOD Glucose-118* UreaN-9 Creat-0.7 Na-143 
K-4.0 Cl-101 HCO3-27 AnGap-15
___ 07:15AM BLOOD ALT-284* AST-363* AlkPhos-120* 
Amylase-102* TotBili-3.3*
___ 07:15AM BLOOD Lipase-25
___ 07:15AM BLOOD Calcium-9.4 Phos-3.6 Mg-1.9

•The scout film was normal.  
•Cannulation of the biliary duct was attempted with a 44 Rx 
Sphincterotome but given difficulty was ultimately successfully 
performed with a ___ cannula using a free-hand technique.  
•Contrast medium was injected resulting in complete 
opacification.  
•The procedure was moderately difficult. During difficult 
biliary cannulation, the pancreatic duct was partially filled 
with contrast and visualized proximally. The course and caliber 
of the duct was normal with no evidence of filling defects, 
masses, chronic pancreatitis or other abnormalities.  
•The CBD was 8 mm in diameter.  
•One filling defect consistent with a stone was identified in 
the distal CBD.  
•The left and right hepatic ducts and all intrahepatic branches 
were normal.  
•A biliary sphincterotomy was made with a sphincterotome.  
•There was no post-sphincterotomy bleeding.  
•The biliary tree was swept with a 9-12 mm balloon starting at 
the bifurcation.  
•One stone was successfully removed.  
•The CBD and CHD were swept repeatedly until no further stones 
were seen.  
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically.  
•Otherwise normal ercp to third part of the duodenum
 
 
Brief Hospital Course:
___ y/o female with Hx of HTN and HLD presenting with RLQ pain 
and found to have cholelithiasis and choledocholithiasis on CT 
ab/pelvis. She presented ___ for ERCP, which was done with 
sphincterotomy and removal of large CBD stone. Pt was admitted 
post-procedure for monitoring. She had mild pain on admission 
which improved with conservative measures and by HD2 was pain 
free. LFTs were mildly elevated (ALT 284 AST 363 TB 3.3), felt 
to be expected post-procedure labs. Lipase was normal. ERCP team 
rec repeating labs in 2 days and f/u with general surgery for 
cholecystitis to prevent recurrent choledocholithiasis.

Transitional Issues:
- Follow labs: LFTs and lipase on ___
- ERCP team recommended f/u w/ general surgery (Dr. ___ for 
elective cholecystectomy to prevent recurrent 
choledocholithiasis. 
- Avoid Aspirin, Plavix, NSAID, or Coumadin for 5 days post 
procedure 
- Held ASA at discharge for 5 days. Can resume after.

===================

ACTIVE ISSUES:

# choledocholithiasis and cholelithiasis c/b pancreatic 
stranding
# s/p ERCP with sphincterotomy ___
Per ERCP note, ___: ERCP with challenging cannulation into CBD 
but ultimately successful, sphincterotomy performed, extraction 
balloon sweeps with large single stone removed successfully". Pt 
stable overnight receiving clear liquids. On ___ in the AM pt 
advanced to reg diet PO and tolerated well. Low suspicion for 
post-ERCP pancreatitis or cholangitis given stable VS, benign 
abdominal exam and stable clinical status. LFTs abnormal ALT 284 
AST 363 TB 3.3. Lipase within normal limits although lab values 
less reliable given recent ERCP. ERCP team agreed with d/c plan. 


Pt will need to schedule f/u apt with Dr. ___ elective 
cholecystectomy.  Repeat labs in 2 days (___) and reviewed at 
f/u outpatient with PCP scheduled for ___. Pt advised to 
avoid NSAIDs, Plavix, aspirin and other blood thinners for 5 
days after discharge. Pt reported she takes aspirin 81 mg 
(prescribed by PCP as ___ "precautionary" treatment and not for 
any specific condition). Advised to hold aspirin for the next 5 
days. 

# Constipation: pt reported feeling constipated while in the 
hospital but did have a BM while in the hospital.  Bowel reg was 
uptitrated while she was in the hospital.

CHRONIC/STABLE PROBLEMS:
#HTN:
- Can continue home amlodipine, losartan, and 
hydrochlorothiazide in AM

#HLD: Not on any home medication

#GERD: Continue home pantoprazole 

#Glaucoma: continue home Latanoprost

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Losartan Potassium 100 mg PO DAILY  
5.  Pantoprazole 40 mg PO Q24H  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___
7.Outpatient Lab Work
Please obtain LFTs (AST, ALT, Alk Phos, Tbili) and lipase. 
ICD-10 R94.5. Please fax to PCP ___, MD. ___ #: 
___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Choledocholithiasis 

Secondary diagnosis:
Abnormal liver function tests

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why were you here:
You were experiencing abdominal pain that was caused by a 
gallstone getting stuck in the track connecting your gallbladder 
to the pancreas

What was done:
You had an ERCP procedure that removed the gallstone and were 
monitored afterwards to ensure you did not have any 
complications

What to do after discharge:
- Follow up with your primary care doctor ___ Dr. ___ to 
evaluate for surgery to remove your gallbladder to decrease 
further problems. 
- Avoid aspirin, Plavix, NSAIDS, blood thinners for 5 days after 
discharge 
- Held ASA at discharge for 5 days. Can resume after.
- Follow up with PCP if you have any increase in abdominal pain, 
fever, intolerance of food or yellowing of skin or eyes 

 
Followup Instructions:
___